US04336397
4-Cyclohexyl acetophenone
There was introduced to a 1 liter 3-neck flask under nitrogen atmosphere 41.7 g (0.312 Mol) of aluminum chloride, followed by 250 ml of dichloromethane. The mixture was cooled in an ice bath and 39.3 g (0.5 Mol) of acetyl chloride was added dropwise. This was followed by dropwise addition of 40.0 g of cyclohexylbenzene in 100 ml of dichloromethane. Fifteen minutes after addition was complete, 25 g of ice and then 25 ml of water were added to the reaction mixture, whereupon a thick white solid formed. The dichloromethane was decanted and washed with water, then three times with 30 ml of saturated saline solution, after which it was dried overnight over magnesium sulfate. After filtration, the remaining dichloromethane was evaporated, and the residue crystallized on cooling. The residue was recrystallized from petroleum ether to give 28.1 g. of product, m.p. 65°-67° C. Analysis:

reactant | aluminum chloride | 0.312 Mol, 41.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 0.5 Mol, 39.3 g | C(C)(=O)Cl | C2H3ClO
reactant | cyclohexylbenzene | 40.0 g | C1(CCCCC1)C1=CC=CC=C1 | C12H16
reactant | water | 25 ml | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 4-Cyclohexyl acetophenone | C1CCC(CC1)CC(=O)C1=CC=CC=C1 | C14H18O
